US07211119B2
1.1.4 3,3′-(4-methoxy-5-methyl-1,3-phenylene)bis(1,3-oxazolidin-2-one)
200 ml of sodium hydroxide solution (20% strength) were initially introduced and heated to 45° C. Subsequently, 59 g of bis(2-chloroethyl) (4-methoxy-5-methyl-1,3-phenylene)biscarbamate were added in portions and the mixture was diluted with 200 ml of dioxane. The mixture was after-stirred for a further 2 h at 45° C. After stirring overnight at room temperature, the mixture was poured onto ice, and the mixture was neutralized with hydrochloric acid. The precipitated product was filtered off with suction and dried overnight under reduced pressure.

reactant | sodium hydroxide | 200 ml | [OH-].[Na+]
reactant | bis(2-chloroethyl) (4-methoxy-5-methyl-1,3-phenylene)biscarbamate | 59 g | COC1=C(C=C(C=C1C)NC(OCCCl)=O)NC(OCCCl)=O | C14H18Cl2N2O5
reactant | hydrochloric acid | Cl | ClH
solvent | dioxane | 200 ml | O1CCOCC1 | C4H8O2
product | 3,3′-(4-methoxy-5-methyl-1,3-phenylene)bis(1,3-oxazolidin-2-one) | COC1=C(C=C(C=C1C)N1C(OCC1)=O)N1C(OCC1)=O | C14H16N2O5
